US07038055B2
Step 9: N-[(2S,3R)-3-methoxy-1-(quinolin-3-yl-methanesulfonyl)butan-2-yl]-N-hydroxyformamide
(2S,3R)-N-[3-Methoxy-1-(3-quinolylmethanesulfonyl)-2-butyl]hydroxylamine (300 mg) was dissolved in a premixed solution of acetic anhydride (2 ml) and formic acid (6 ml) and stood overnight. The reaction was evaporated and then re-evaporated from chloroform (2×5 ml). The residue was redissolved in methanol (5 ml), treated with potassium carbonate (639 mg) and stirred for 45 min and then evaporated. The residue was redissolved in water (5 ml) and the pH adjusted to 7 with 1M hydrochloric acid. After extraction with MDC (2×5 ml), the combined extracts were dried (MgSO4) and evaporated. The residue was chromatographed (acid washed silica gel, 3% MeOH/MDC) to give the title compound (232 mg). MS (APCI+ve ion) 353 (MH+); 1H NMR δ[(CD3)2SO] 9.9 and 9.7 (1H, 2xs rotamers), 8.83 (1H, m), 8.38 (1H,d,J=2 Hz), 8.32 and 8.0 (1H,2xs rotamers), 8.03 (2H, m), 7.81 (1H, t, J=8 Hz), 7.66 (1H, t, J=8 Hz), 4.85 and 4.22(1H, 2xs rotamers), 4.76 (2H, m), 3.7–3.3 (3H, m), 3.25 (3H, s), 1.15 (3H, m rotamers).

reactant | (2S,3R)-N-[3-Methoxy-1-(3-quinolylmethanesulfonyl)-2-butyl]hydroxylamine | 300 mg | CO[C@@H]([C@@H](CS(=O)(=O)CC=1C=NC2=CC=CC=C2C1)NO)C | C15H20N2O4S
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 6 ml | C(=O)O | CH2O2
product | N-[(2S,3R)-3-methoxy-1-(quinolin-3-yl-methanesulfonyl)butan-2-yl]-N-hydroxyformamide | 232 mg | CO[C@@H]([C@@H](CS(=O)(=O)CC=1C=NC2=CC=CC=C2C1)N(C=O)O)C | C16H20N2O5S
